US05420275
8-Amino-5-bromo-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione (L-035)
In a mixture of 1 ml of ethanol and 2 ml of hydrazine monohydrate was dissolved 90 mg of 3-amino-6-bromo-4,5-diethoxycarbonyl-2-phenylpyridine, and the mixture was stirred for 2 hours at room temperature. After the solvent was distilled off, the resulting crystals were collected by filtration with ethanol. Water was added to the crystals, and the mixture was neutralized with 1N hydrochloric acid, the resulting crystals were collected by filtration. The crystals were dissolved in a small volume of methanol. After mixing the methanol solution with silica gel, purification by silica gel column chromatography (eluent:ethyl acetate→ethylacetate/methanol 1:1) was conducted, followed by collection by filtration.

reactant | 3-amino-6-bromo-4,5-diethoxycarbonyl-2-phenylpyridine | 90 mg | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Br)C1=CC=CC=C1 | C17H17BrN2O4
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 8-Amino-5-bromo-7-phenylpyrido[3,4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=C(C=2C(NNC(C21)=O)=O)Br)C2=CC=CC=C2 | C13H9BrN4O2
